### PR TITLE
feat(Mathlib.RingTheory.TensorProduct.MonoidAlgebra) : tensor product of a monoid algebra

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
* `MonoidAlgebra.rTensorAlgEquiv`: the tensor product of `MonoidAlgebra M α` with `N` is `R`-linearly equivalent  to `MonoidAlgebra (M ⊗[R] N) α`

* `MonoidAlgebra.scalarRTensorAlgEquiv`, the tensor product of `MonoidAlgebra R α` with `N` is `R`-linearly equivalent to `MonoidAlgebra N α`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -645,6 +645,20 @@ def coeffAddMonoidHom (m : σ →₀ ℕ) : MvPolynomial σ R →+ R
...
+  toFun := coeff m
+  map_add' := coeff_add m
+  map_smul' := coeff_smul m
+
+variable {R}
+
+@[simp]
+theorem lcoeff_apply (m : σ →₀ ℕ) (f : MvPolynomial σ R) :
+    lcoeff R m f = coeff m f :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:660]: Untested:
```suggestion
variable (R) in
/-- `MvPolynomial.coeff m` but promoted to a `LinearMap`. -/
@[simps apply]
def lcoeff (m : σ →₀ ℕ) : MvPolynomial σ R →ₗ[R] R where
  toFun := coeff m
  map_add' := coeff_add m
  map_smul' := coeff_smul m
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 2]
```diff
@@ -214,6 +214,11 @@ def mapRange.addMonoidHom (f : M →+ N) : (α →₀ M) →+ α →₀ N
   map_add' a b := by dsimp only; exact mapRange_add f.map_add _ _; -- Porting note: `dsimp` needed
 #align finsupp.map_range.add_monoid_hom Finsupp.mapRange.addMonoidHom
 
+lemma mapRange.addMonoidHom_apply_single
+    [AddCommMonoid N] [AddCommMonoid P] (e : N →+ P) (a : α) (n : N) :
+    mapRange.addMonoidHom e (single a n) = single a (e n) := by
+    simp only [addMonoidHom_apply, mapRange_single]
+
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:221]: I think this is best kept as separate lemmas; repeating every lemma about a function `foo` for `fooOneHom`, `fooZeroHom` etc doesn't scale.

File: Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean [hunk 3]
```diff
@@ -0,0 +1,228 @@
...
+variable [Semiring N] [Semiring P]
+
+lemma apply_single
+    (e : N →+ P) (a : α) (n : N) (b : α) :
+    e ((single a n) b) = single a (e n) b :=
+  Finsupp.apply_single e a n b
+
+/-- RingHom functoriality for the monoid algebra -/
+noncomputable def ringHom [MulOneClass α] (e : N →+* P) :
+    MonoidAlgebra N α →+* MonoidAlgebra P α := {
```
Comment (eric-wieser) [inline Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean:61]: I think this might already exists; something like `MonoidAlgebra.liftNC` or similar?

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:660]: Yes, that works, as pointed out by @erdOne in the comments to #12293.  
This file is common to the 3 PR, I did not take the time to sort out which of these modifications were necessary. I'm sorry for the useless work.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:221]: I'm sorry, I don't understand what you mean in the first part of the sentence. 
@erdOne suggested to make it work for `AddHomClass` in #12293, and that works.
(I agree about the second part!)

File: Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean:61]: docs#MonoidAlgebra.liftNCRingHom does take into account the multiplicative structure, but uses `Monoid`, while here `MulOneClass` is enough. What should one do? (I am not sure that docs#MonoidAlgebra.liftNCRingHom can be generalized, docs#MonoidAlgebra.liftNC_mul does not suffice, apparently.)

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:221]: At least, one can give the shorter (but less general) definition 
```
/-- RingHom functoriality for the monoid algebra -/
noncomputable def ringHom [Monoid α] (e : N →+* P) :
    MonoidAlgebra N α →+* MonoidAlgebra P α := by
  apply liftNCRingHom (singleOneRingHom.comp e) (of P α)
  intro n a
  simp only [commute_iff_eq, RingHom.coe_comp, Function.comp_apply,
    singleOneRingHom_apply, ZeroHom.toFun_eq_coe, AddMonoidHom.toZeroHom_coe,
    singleAddHom_apply, of_apply, single_mul_single, one_mul, mul_one]
```
and I can try proving the lemmas for them. (This is not as obvious, I need to understand why!)

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:221]: (That works, but one loses the fact that it corresponds with docs#Finsupp.mapRange…)

File: Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean]: At least, one can give the shorter (but less general) definition 
```
/-- RingHom functoriality for the monoid algebra -/
noncomputable def ringHom [Monoid α] (e : N →+* P) :
    MonoidAlgebra N α →+* MonoidAlgebra P α := by
  apply liftNCRingHom (singleOneRingHom.comp e) (of P α)
  intro n a
  simp only [commute_iff_eq, RingHom.coe_comp, Function.comp_apply,
    singleOneRingHom_apply, ZeroHom.toFun_eq_coe, AddMonoidHom.toZeroHom_coe,
    singleAddHom_apply, of_apply, single_mul_single, one_mul, mul_one]
```
and I can try proving the lemmas for them. (This is not as obvious, I need to understand why!)

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/MonoidAlgebra.lean]: That works, but one loses the fact that it corresponds with docs#Finsupp.mapRange…
In the current version, there is a proof of everything but for one definition, 
and proofs/definitions exist in two ways, to help you decide which way is better.

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:660]: If these PRs share commen code and you don't want to spend time to extract the dependency, can you mark them as dependencies in some arbitrary order to avoid further duplicate work?

Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:660]: I'll do that, sorry. 
Let's make the dependency in the order they are.

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Finsupp/Basic.lean:221]: I mean that the caller should be expected to write `rw [addMonoidHom_apply, mapRange_single]` rather than using this lemma; or `dsimp; rw [mapRange_single]`. The first step in most proofs should be to let `dsimp` clean up any bundled functions to bring things into a standard form that we have lemmas for.

File: Mathlib/Algebra/MvPolynomial/Basic.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:660]: So Lean creates the _apply lemma, but it has R as an explicit argument. 
This is not such a nuisance, I believe. Maybe we should be satisfied with this. 
(Maybe `simps` has to be refined so as to put implicit arguments when desired.)

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Finsupp/Basic.lean:221]: I deleted the lemma.

**Comment by AntoineChambert-Loir** [comment]
Contrary to the case of polynomials and multivariate polynomials, this does not look so useful and I prefer to close it now.

**Comment by eric-wieser** [comment]
I'd be tempted to keep this because it provides the multivariate polynomial version for free.

**Comment by AntoineChambert-Loir** [comment]
The point is that all functions are trivial in this case. What makes the case of multivariate polynomials interesting is the relation with coefficients, MvPolynomial.sum, etc.

**Comment by AntoineChambert-Loir** [comment]
OK, `coeff` and `monomial` don't exist, but one can “apply”, and use `MonoidAlgebra.single` to add functions equivalent to what is done for `MvPolynomial` in #12293 .
The initial lemmas have been commented out and one of them is done explicitly, I should restore something because this half-functoriality of MonoidAlgebra is important and playing with `liftNC` all the time is painful.

**Comment by YaelDillies** [comment]
Are you still working on this? It looks like this duplicates #29539 from Toric.

**Comment by AntoineChambert-Loir** [comment]
No, I'm not. We really needed the `MvPolynomial` part, which we did, and I felt we had to do the analogues (MonoidAlgebra, Polynomial), but since they weren't used and nobody had a look, we left it rot.
